US05587480
CIS AND TRANS 2-p-NITROBENZOYLOXYMETHYL-4-p-NITROBENZOYLOXY-1,3-DITHIOLANE
p-Nitrobenzoyl chloride (4.72 g, 25.42 mmol) was added to a solution of cis and trans-2-hydroxymethyl-4-hydroxy-1,3-dithiolane (1.38 g, 9.08 mmol) in dry pyridine (50 mL) at 0° C. the reaction mixture was then placed in the refrigerator for 18 h. The reaction mixture was then poured into water and extracted with methylene chloride (3X). The combined organic extracts were washed with water, brine, dried and concentrated to give a yellow solid, 3.68 g (90%). 1H NMR (CDCl3) (300 MHz) δ: (8.27 (m, 8H, Ar-H), 6.86+6.81 (dd's, 1H, 3Hz, 2Hz, C4-H), 4.96+4.87 (t's, 1H, 7Hz, C2--H), 4.47 (m, 2H, CH2OAr), 3.5 (m, 2H, C5--H).

reactant | p-Nitrobenzoyl chloride | 25.42 mmol, 4.72 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | trans-2-hydroxymethyl-4-hydroxy-1,3-dithiolane | 9.08 mmol, 1.38 g | OC[C@@H]1SC[C@H](S1)O | C4H8O2S2
reactant | water | O | H2O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | TRANS 2-p-NITROBENZOYLOXYMETHYL-4-p-NITROBENZOYLOXY-1,3-DITHIOLANE | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@H]2SC[C@H](S2)OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C18H14N2O8S2
